US08022075B2
Subsequently, 1-[4-(5-bromo-1H-benz[d]imidazol-2-yl)phenyl]-1-ethanone (592 mg) and N,N-dimethylformamide dimethyl acetal (468 μL) were dissolved in N,N-dimethylformamide (10 mL), followed by heating at 100° C. for 2 hours. The reaction mixture was concentrated, and the residue was subjected to flash chromatography. Fraction eluted by dichloromethane-methanol (15:1) were concentrated under reduced pressure, followed by recovering the solid through filtration by use of isopropyl ether, to thereby yield a 1:1 mixture (116 mg) of (E)-1-[4-(5-bromo-1H-benz[d]imidazol-2-yl)phenyl]-3-dimethylamino-2-propen-1-one and (E)-1-[4-(6-bromo-1H-benz[d]imidazol-2-yl)phenyl]-3-dimethylamino-2-propen-1-one.

reactant | 1-[4-(5-bromo-1H-benz[d]imidazol-2-yl)phenyl]-1-ethanone | 592 mg | BrC1=CC2=C(NC(=N2)C2=CC=C(C=C2)C(C)=O)C=C1 | C15H11BrN2O
reactant | N,N-dimethylformamide dimethyl acetal | 468 μL | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (E)-1-[4-(5-bromo-1H-benz[d]imidazol-2-yl)phenyl]-3-dimethylamino-2-propen-1-one | 116 mg | BrC1=CC2=C(NC(=N2)C2=CC=C(C=C2)C(\C=C\N(C)C)=O)C=C1 | C18H16BrN3O
